US05006561
5-Methanesulphonamido-2-[N-(4-methanesulphonamidophenethyl)-N-methylamino]indane
Methanesulphonyl chloride (0.155 ml) was added to a solution of 5-amino-2-[N-(4-aminophenethyl)-N-methylamino]indane (0.28 g) in pyridine (30 ml) and the reaction mixture was stirred at room temperature for 17 hours. The solvent was then removed by evaporation in vacuo to give a gum which was dissolved in methylene chloride, washed with aqueous sodium bicarbonate and brine, dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 2%) and the product-containing fractions were combined and evaporated to dryness in vacuo to afford the title compound as a foam, yield 0.27 g.

reactant | Methanesulphonyl chloride | 0.155 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-amino-2-[N-(4-aminophenethyl)-N-methylamino]indane | 0.28 g | NC=1C=C2CC(CC2=CC1)N(C)CCC1=CC=C(C=C1)N | C18H23N3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Methanesulphonamido-2-[N-(4-methanesulphonamidophenethyl)-N-methylamino]indane | CS(=O)(=O)NC=1C=C2CC(CC2=CC1)N(C)CCC1=CC=C(C=C1)NS(=O)(=O)C | C20H27N3O4S2
